.SUBCKT LT1431     1 2 3 4 5 6 7 8
*
* 10 KOhm voltage divider
RTOP 4 7 5.0E3
RBOT 7 5 5.0E3
*  2.5 V voltage reference
*  with temperature and supply 
*  voltage dependency
IT1 11 5 1.0E-3
RT1 11 5 1.0E3
IT2 12 5 1.0E-3
RT2 12 5 1.0E3 TC=1.0E-4
RVREF 10 5 1.0E3
* Vref exactly 2.5 V
GVREF 5 10 POLY(2) 3  5  11  12  2.4987E-3  -3.5E-7  0  0  0  -0.17
* Vref + 0.5% = 2.512 V
*GVREF 5 10 POLY(2) 3  5  11  12  2.511E-3  -3.5E-7  0  0  0  -0.17
*  transconductance amplifier
* input bias with cancellation for Vin > 4V
RIN   8 16 10
GBIAS 16 3 POLY(1) 17 5 4.8E-6 -1.2E-6
GIB2 5 17 3 5 1.0E-3
RIB1 17 5 1.0E3
DIB  17 18 DX
RIB2 18 19 1
VIB  19 5  DC 3.2V
* 1. pole at 18.4 Kz / 1. zero at 184 KHz
GP1 5 20 8 10 1.0E-5
CP1  20 21 7.79E-11
RP11 21 5  11.1E3
RP12 20 5  1.0E5
* 2. pole at 375 Kz / 2. zero at 750 KHz
GP2 5 22 20 5 1.0E-5
CP2  22 23 2.12E-12
RP21 23 5  1.0E5
RP22 22 5  1.0E5
* 3. zero at 750 KHz / 3. pole at 2.25 MHz
GP3 5 24 22 5 1.0E-5
LP3  24 25 0.0318
RP31 25 5  150E3
RP32 24 5  300E3
* 4. pole at 3.0 MHz
GP4 5 26 24 5 1.0E-5
RP4 26 5 1.0E5
CP4 26 5 5.3E-13
* 5. pole at 3.0 MHz
GP5 5 27 26 5 1.0E-5
RP5 27 5 1.0E5
CP5 27 5 5.3E-13
* transconductance 4 mA/V
GGM 5 28 27 5 4.0E-3
R15 28 2 5.0E3
* output voltage clamp (Vout = 0 - V+)
DNL 50 28 DX
VNL 50 5 DC 0.782
DPL 28 51 DX
EPL 51 5 POLY(1) 3 5 -0.782 1.0
*  open collector output stage
R17  2 30 1.5E3
Q19 2 33 34 Q1
R16 34 5 22
Q20 3 30 31 Q1
R18 31 5 50.0E3
Q22A 1 31 32 Q2
Q22B 1 31 30 Q2
R19 32 6 3.6
R20 33 32 5.0E3
R21 2 5 100.0E3
C3 30 1 6.0E-12
C4 33 2 1.0E-12
.MODEL Q1 NPN IS=1.0e-14 BF=250
.MODEL Q2 NPN IS=1.0e-14 BF=50
.MODEL DX  D IS=8.0000e-16 VJ=1.0 RS=0 XTI=0
*  Ik vs Vka characteristic below Vref
*  and off-state current
*  Ik(min) = 0.55 mA
GIK1 5 40 POLY(1) 8 5 -1.0E-3 1.0E-3
RIK 40 5 1.0E4
DIK 41 40 DX
VIK 41 5 DC 0.723
GIK2 3 5 POLY(1) 40 5 0.9E-6 3.7E-5
.ENDS LT1431
